US04261890
A stirred solution of 8.0 g (0.0268 mole) of α-(1-{[2-(4-methoxyphenyl)-ethyl]amino}-1-methylethyl)benzenemethanol in 30 ml of methanesulfonic acid is heated for 11 hrs. at 83° C. The brown solution is poured onto ice, made basic with NH4OH and extracted twice with 150 ml of ethyl acetate. The combined organic extracts are washed with saturated aqueous NaCl, dried (Na2SO4) and evaporated in vacuo. Trituration of the residue with hot acetonitrile and cooling gave 1.7 g (27% ) of the above named 8-hydroxybenzazepine derivative as a result of cyclization with simultaneous cleavage of the methoxy function, mp 208°-209° C., dec. An analytical sample melting at 209°-210° C., dec., is obtained by recrystallization from acetonitrile.

reactant | α-(1-{[2-(4-methoxyphenyl)-ethyl]amino}-1-methylethyl)benzenemethanol | 0.0268 mole, 8.0 g | COC1=CC=C(C=C1)CCNC(C)(C)C(O)C1=CC=CC=C1 | C19H25NO2
reactant | NH4OH | [NH4+].[OH-]
reactant | methanesulfonic acid | 30 ml | CS(=O)(=O)O | CH4O3S
product | 8-hydroxybenzazepine | OC1=CC2=C(C=CC=CN2)C=C1 | C10H9NO
